US08258130B2
To a suspension of 5-fluoro-1-{[2-(3-fluorophenyl)-4-methylpyrimidine-5-carbonyl]amino}-1H-indole-3-sulfonic acid (1.06 g) in DCM (60 mL) at 0° C. is added dry DMF (10 drops). Oxalyl chloride (1.05 mL) is added drop wise and the mixture is stirred at 0° C. for 3 h. The mixture is filtered and the collected solid is washed with ether to afford 5-fluoro-1-{[2-(3-fluorophenyl)-4-methylpyrimidine-5-carbonyl]amino}-1H-indole-3-sulfonyl chloride (0.94 g). MS: 461 (M−H)

reactant | 5-fluoro-1-{[2-(3-fluorophenyl)-4-methylpyrimidine-5-carbonyl]amino}-1H-indole-3-sulfonic acid | 1.06 g | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)S(=O)(=O)O | C20H14F2N4O4S
reactant | Oxalyl chloride | 1.05 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 10 drops | CN(C)C=O | C3H7NO
product | 5-fluoro-1-{[2-(3-fluorophenyl)-4-methylpyrimidine-5-carbonyl]amino}-1H-indole-3-sulfonyl chloride | 0.94 g | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)S(=O)(=O)Cl | C20H13ClF2N4O3S
